US05847153
Step 9 Preparation of N-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanamide.
A mixture of N-benzyloxy-2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanamide (0.3 g, 0.5 mmol), Pearlman's catalyst (0.11 g), and absolute ethyl alcohol is agitated under hydrogen (15 psig) overnight at room temperature. The mixture is filtered and the filtrate is concentrated in vacuo. The concentrate is chromatographed over silica gel with chloroform/ethyl acetate/methyl alcohol/acetic acid (50/40/10/1) and the eluate concentrated in vacuo to afford the title compound as a white solid.

reactant | N-benzyloxy-2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanamide | 0.5 mmol, 0.3 g | C(C1=CC=CC=C1)ONC(C(CCCS(=O)(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C27H31NO8S2
catalyst | Pearlman's catalyst | 0.11 g | [OH-].[OH-].[Pd+2]
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-hydroxy-2-[(4-methoxybenzenesulfonyl)methyl]-5-(4-methoxybenzenesulfonyl)-pentanamide | ONC(C(CCCS(=O)(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C20H25NO8S2
